US05506256
C) (2S)-2-(1-Hydroxy-2-phenoxyethyl)-1-(N-octanoyl-L-prolyl)pyrrolidine
By the same procedure as in Example 1-D), while using (2S)-1-(tert-butoxycarbonyl)-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine (1.50 g) and N-octanoyl-L-proline (1.18 g), there was obtained 1.16 g of the title compound.

reactant | (2S)-1-(tert-butoxycarbonyl)-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine | 1.50 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(COC1=CC=CC=C1)O | C17H25NO4
reactant | N-octanoyl-L-proline | 1.18 g | C(CCCCCCC)(=O)N1[C@H](C(=O)O)CCC1 | C13H23NO3
product | (2S)-2-(1-Hydroxy-2-phenoxyethyl)-1-(N-octanoyl-L-prolyl)pyrrolidine | 1.16 g | OC(COC1=CC=CC=C1)[C@H]1N(CCC1)C([C@H]1N(CCC1)C(CCCCCCC)=O)=O | C25H38N2O4
